US04613599
33 g of 3,4-difluoro-benzoylpropionic acid (obtained by Friedel-Crafts acylation of 1,2-difluorobenzene with succinic anhydride in the presence of aluminium chloride) together with 60 ml of morpholine are heated at 150° C. for 20 hours with stirring. The reaction mixture is cooled, dissolved in ethylacetate, and this solution is washed with 2 N hydrochloric acid and extracted with 5 N hydrochloric acid. The pH-value of the 5 N hydrochloric acid extracts is brought to 6 with concentrated sodium hydroxide solution, and the suspension formed is extracted with ethyl acetate. The organic phases are washed with water, dried over sodium sulfate and concentrated by evaporation. The crystalline residue (31.7 g) together with 18 g of potassium hydroxide, 180 ml of water and 180 ml of ethanol is refluxed for 10 hours; it is then cooled, concentrated by evaporation and distributed between water and ethyl acetate. The pH-value of the aqueous phases is adjusted to 5, and the 3-fluoro-4-morpholino-benzoylpropionic acid which has precipitated is filtered off under suction and dried (m.p. 164°-168° C.).

reactant | 1,2-difluorobenzene | FC1=C(C=CC=C1)F | C6H4F2
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | morpholine | 60 ml | N1CCOCC1 | C4H9NO
product | 3,4-difluoro-benzoylpropionic acid | 33 g | FC=1C=C(C(=O)C(C(=O)O)C)C=CC1F | C10H8F2O3
